US07405236B2
a] [4-(tert-Butyl-dimethyl-silanyloxy)-indol-1-yl]-acetic acid ethyl ester
In analogy to the procedure described in example 1 b], 4-(tert-butyl-dimethyl-silanyloxy)-1H-indole was reacted with bromo-acetic acid ethyl ester in the presence of cesium carbonate to give the title compound as yellow oil.

reactant | 4-(tert-butyl-dimethyl-silanyloxy)-1H-indole | C(C)(C)(C)[Si](OC1=C2C=CNC2=CC=C1)(C)C | C14H21NOSi
reactant | bromo-acetic acid ethyl ester | C(C)OC(CBr)=O | C4H7BrO2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
product | [4-(tert-Butyl-dimethyl-silanyloxy)-indol-1-yl]-acetic acid ethyl ester | C(C)OC(CN1C=CC2=C(C=CC=C12)O[Si](C)(C)C(C)(C)C)=O | C18H27NO3Si
